US07312330B2
C. 6-(7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ylamino)-3,3-dimethylindolin-2-one
A mixture of the 4-chloro-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine (50 mg, 0.18 mmol), 6-amino-3,3-dimethylindolin-2-one (63 mg, 0.36 mmol), and acetonitrile (3 mL) was heated in a sealed tube via at 180° C. for 60 min. The mixture was treated with EtOAc (50 mL) and sat. aq. solution of NaHCO3. The organic layer was separated and washed with brine, dried (Na2SO4), and evaporated. The residue was purified by flash chromatography over silica gel to give a light yellow solid (50 mg).

reactant | 4-chloro-7-(3-chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidine | 0.18 mmol, 50 mg | ClC=1C2=C(N=CN1)CN(CC2)C2=NC=CC=C2Cl | C12H10Cl2N4
reactant | 6-amino-3,3-dimethylindolin-2-one | 0.36 mmol, 63 mg | NC1=CC=C2C(C(NC2=C1)=O)(C)C | C10H12N2O
reactant | acetonitrile | 3 mL | C(C)#N | C2H3N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | 50 mL | CCOC(=O)C | C4H8O2
product | 6-(7-(3-Chloropyridin-2-yl)-5,6,7,8-tetrahydropyrido[3,4-d]pyrimidin-4-ylamino)-3,3-dimethylindolin-2-one | 50 mg | ClC=1C(=NC=CC1)N1CC=2N=CN=C(C2CC1)NC1=CC=C2C(C(NC2=C1)=O)(C)C | C22H21ClN6O
